US06521754B2
2-Amino-4-methoxy-7-phenyl-benzothiazole
The title compound was prepared from 3-amino-4-methoxy-biphenyl, according to the patent literature N-(Benzothiazol-2-yl)oxamic acid derivatives. W. Winter, M. Thiel, A. Roesch and O. H. Wilhelms, German Patent, DE 2656468, 1978. and is obtained as a white solid, MS: m/e=256 (M+), mp. 207-208° C.

reactant | 3-amino-4-methoxy-biphenyl | NC=1C=C(C=CC1OC)C1=CC=CC=C1 | C13H13NO
reactant | N-(Benzothiazol-2-yl)oxamic acid | S1C(=NC2=C1C=CC=C2)NC(C(=O)O)=O | C9H6N2O3S
product | 2-Amino-4-methoxy-7-phenyl-benzothiazole | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
